US04576958
To a suspension of 30 g (0.12 mole) of 2-phenyl-1-(4-methylthiophenyl)ethanone in 45 ml of methylene chloride and 450 ml of ether was added dropwise a solution of 20.8 g (0.13 mole) of bromine in 65 ml of methylene chloride. The reaction mixture decolorized and became slightly exothermic. After stirring an additional 30 minutes, the reaction mixture was concentrated under vacuum. The crystalline product was collected by filtration and washed with hexane to give 36.3 g (91.5%) of 2-bromo-2-phenyl-1-(4-methylthiophenyl)ethanone as an off-white solid, m.p. 101°-103°.

reactant | 2-phenyl-1-(4-methylthiophenyl)ethanone | 0.12 mole, 30 g | C1(=CC=CC=C1)CC(=O)C1=CC=C(C=C1)SC | C15H14OS
reactant | bromine | 0.13 mole, 20.8 g | BrBr | Br2
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
solvent | ether | 450 ml | CCOCC | C4H10O
solvent | methylene chloride | 65 ml | C(Cl)Cl | CH2Cl2
product | 2-bromo-2-phenyl-1-(4-methylthiophenyl)ethanone | 36.3 g, 91.5% | BrC(C(=O)C1=CC=C(C=C1)SC)C1=CC=CC=C1 | C15H13BrOS
